US08193199B2
Prepared according to Procedure H using (8-chloro-2-(3,5-difluorophenyl)-quinolin-3-yl)methanamine (0.105 g, 0.345 mmol), 6-chloropurine (0.064 g, 0.41 mmol, 1.2 eq) and DIEA (0.70 mmol, 2.0 eq) in n-butanol (3 mL). N-((8-chloro-2-(3,5-difluorophenyl)quinolin-3-yl)methyl)-9H-purin-6-amine [PI3Kδ IC50=76 nM] was obtained after purification as a white solid. 1H-NMR (MeOD) δ ppm 8.48 (s, 1H), 8.35 (s, 1H), 8.24 (s, 1H), 7.86-7.94 (m, 2H), 7.52-7.61 (m, 1H), 7.27-7.35 (m, 2H), 6.96-7.06 (m, 1H), 4.73 (d, J=5.71, 2H), Mass Spectrum (ESI) m/e=423 (M+1).

reactant | (8-chloro-2-(3,5-difluorophenyl)-quinolin-3-yl)methanamine | 0.345 mmol, 0.105 g | ClC=1C=CC=C2C=C(C(=NC12)C1=CC(=CC(=C1)F)F)CN | C16H11ClF2N2
reactant | 6-chloropurine | 0.41 mmol, 0.064 g, 1.2 eq | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | DIEA | 0.70 mmol, 2.0 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | N-((8-chloro-2-(3,5-difluorophenyl)quinolin-3-yl)methyl)-9H-purin-6-amine | ClC=1C=CC=C2C=C(C(=NC12)C1=CC(=CC(=C1)F)F)CNC1=C2N=CNC2=NC=N1 | C21H13ClF2N6
